US06809110B2
In analogy to the procedure described in example 1 d], [rac]-2-ethoxy-3-(4-hydroxy-3-methoxy-phenyl)-propionic acid ethyl ester was reacted with 2-[2-(4-tert-butyl-phenyl)-5-methyl-thiazol-4-yl]-ethanol (example 12 b]) in tetrahydrofuran in the presence of triphenylphosphine and DEAD (diethyl azodicarboxylate) to yield [rac]-3-(4-{2-[2-(4-tert-butyl-phenyl)-5-methyl-thiazol-4-yl]-ethoxy}-3-methoxy-phenyl)-2-ethoxy-propionic acid ethyl ester, which was further saponified in analogy to the procedure described in example 4 e], to yield [rac]-3-(4-{2-[2-(4-tert-butyl-phenyl)-5-methyl-thiazol-4-yl]-ethoxy}-3-methoxy-phenyl)-2-ethoxy-propionic acid as light yellow amorphous solid.

reactant | [rac]-2-ethoxy-3-(4-hydroxy-3-methoxy-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)O)OC)OCC)=O | C14H20O5
reactant | 2-[2-(4-tert-butyl-phenyl)-5-methyl-thiazol-4-yl]-ethanol | C(C)(C)(C)C1=CC=C(C=C1)C=1SC(=C(N1)CCO)C | C16H21NOS
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [rac]-3-(4-{2-[2-(4-tert-butyl-phenyl)-5-methyl-thiazol-4-yl]-ethoxy}-3-methoxy-phenyl)-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)OCCC=1N=C(SC1C)C1=CC=C(C=C1)C(C)(C)C)OC)OCC)=O | C30H39NO5S
